US07560558B2
Compound 19: 2-[(6,7-Dimethoxy-4-quinolyl)oxy]fluoren-9-one
4-Chloro-6,7-dimethoxyquinoline (100 mg), 2-hydroxy-9-fluorenone (269 mg), and 4-dimethylaminopyridine (164 mg) were suspended in o-dichlorobenzene (6 ml), and the suspension was stirred at 160° C. for 7 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (58 mg, yield 34%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 100 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-hydroxy-9-fluorenone | 269 mg | OC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H8O2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 164 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 6 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-[(6,7-Dimethoxy-4-quinolyl)oxy]fluoren-9-one | 58 mg, yield 34% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C24H17NO4
